US05481032
8 g of ammonium peroxodisulfate are introduced into 5 g (19.8 mmol ) of 2-chloro-4,5-difluorobenzophenone and 20 g of glacial acetic acid and the mixture is heated at 90° C. (12 h). 100 g of 70% sulfuric acid are then added and the mixture is heated for 2 h at 150° C. Dilution with 200 g of water and filtration gives 3.1 g (16.0 mmol, 81%) of 2-chloro-4,5-difluorobenzoic acid (purity (GC) ca. 92%). Recrystallization from water gives 2.5 g of product melting at 104° C.-105° C.

reactant | ammonium peroxodisulfate | 8 g | [NH4+].[NH4+].[O-]S(=O)(=O)OOS(=O)(=O)[O-]
reactant | 2-chloro-4,5-difluorobenzophenone | 19.8 mmol, 5 g | ClC1=C(C(=O)C2=CC=CC=C2)C=C(C(=C1)F)F | C13H7ClF2O
reactant | sulfuric acid | 100 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 20 g | C(C)(=O)O | C2H4O2
product | 2-chloro-4,5-difluorobenzoic acid | 16.0 mmol, 3.1 g | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
